US06437184B1
Then, 0.54 g of chloroacetone oxime, 0.1 ml of concentrated sulfuric acid, and 10 ml of diethyl ether are placed in a reaction vessel, into which isobutene gas is blown with stirring under ice cooling, and the reaction mixture is further stirred at room temperature. After completion of the reaction, the reaction mixture is slowly poured into saturated aqueous sodium hydrogencarbonate solution, and extracted twice with diethyl ether. The diethyl ether layers are combined, washed with 10% aqueous sodium hydroxide solution and water in this order, dried over anhydrous magnesium hydroxide, and concentrated, which affords chloroacetone O-tert-butyloxyoxime.

reactant | chloroacetone oxime | 0.54 g | ClCC(C)=NO | C3H6ClNO
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | C=C(C)C | C4H8
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | chloroacetone O-tert-butyloxyoxime | C(C)(C)(C)OON=C(C)CCl | C7H14ClNO2
